US08133909B2
(3,4-Dimethyl-phenyl)-(2-pyridin-2-yl-ethyl)-amine
A dried flask was charged with 21 mg (0.11 mmol) CuI and 1.4 g (4.3 mmol) cesium carbonate under argon. 0.31 g (2.6 mmol) 2-pyridin-2-yl-ethylamine (CAS: 2706-56-1), 0.5 g (2.1 mmol) 4-iodo-0-xylene in solution in 1 mL dried DMF and finally 0.058 mL (0.43 mmol) 2-acetylcyclohexanone were successively added. The mixture was stirred at room temperature for 17 hours and then in a 65° C. oil-bath for 7 hours. The mixture was diluted with water. The aqueous layer was extracted twice with ethyl acetate. The combined extracts were dried over Na2SO4, filtered and concentrated in vacuo. The crude oil was purified with flash column chromatography on silica eluting with a gradient formed from heptane and ethylacetate to provide 0.15 g (31%) of the title compound as a yellow oil. MS (m/e): 227.2 [M+H]+.

reactant | cesium carbonate | 4.3 mmol, 1.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-pyridin-2-yl-ethylamine | 2.6 mmol, 0.31 g | N1=C(C=CC=C1)CCN | C7H10N2
reactant | 4-iodo-0-xylene | 2.1 mmol, 0.5 g | IC=1C=C(C(=CC1)C)C | C8H9I
reactant | 2-acetylcyclohexanone | 0.43 mmol, 0.058 mL | C(C)(=O)C1C(CCCC1)=O | C8H12O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | CuI | 0.11 mmol, 21 mg | [Cu]I
product | (3,4-Dimethyl-phenyl)-(2-pyridin-2-yl-ethyl)-amine | 0.15 g, 31% | CC=1C=C(C=CC1C)NCCC1=NC=CC=C1 | C15H18N2
